US05753692
Synthesis of 5-(3-p-hydroxyphenyl-3-oxo-1-propenyl)-2,2'-bithiophene
1.94 g of 5-formyl-2,2'-bithiophene was dissolved in 15 ml of ethanol. Then 1.36 g of p-hydroxyphenyl-methyl-ketone was added in, followed by adding KOH (1 g dissolved in H2O and ethanol), the color of the mixture turned into orange. Some crude crystals were crystallized and dissolved later. The reaction solution was placed in a refrigerator overnight. The next day, it was decomposed with ice water and 2 ml of acetic acid were added. The crude product was collected and recrystallized from ethanol, 0.52 g of golden crystal product was thus obtained and the melting point thereof was 202°-205° C.

reactant | 5-formyl-2,2'-bithiophene | 1.94 g | C(=O)C1=CC=C(S1)C=1SC=CC1 | C9H6OS2
reactant | p-hydroxyphenyl-methyl-ketone | 1.36 g | OC1=CC=C(C=C1)CC(=O)CC1=CC=C(C=C1)O | C15H14O3
reactant | KOH | 1 g | [OH-].[K+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-(3-p-hydroxyphenyl-3-oxo-1-propenyl)-2,2'-bithiophene | OC1=CC=C(C=C1)C(C=CC1=CC=C(S1)C=1SC=CC1)=O | C17H12O2S2
